US07459505B2
A) Synthesis of (4-bromophenyl)(4′-fluorophenyl)methanone (Formula 28)
4-Fluorobenzoyl chloride (238 g, 1.5 mol) is added under an atmosphere of nitrogen over a period of 1 hour to a suspension of anhydrous aluminium chloride (224 g, 1.68 mol) and 700 ml bromobenzene while maintaining the temperature below 30° C. After the addition is complete, the solution is heated at 90° C. for 3 hour. The reaction solution is added to 500 g crushed ice. The mixture is allowed to warm to room temperature and the water phase is extracted with dichloromethane (3 times with 200 ml). The organic extracts are combined, washed with water (200 ml), saturated sodium hydrogene carbonate solution (200 ml), water (200 ml), dried over sodium sulphate, filtered, and evaporated to dryness. The residue is crystallized twice from petroleum ether (b.p.: 36-80° C.) to obtain a pale yellow powder. The yield is 240-278 g (57-67%).

reactant | 4-Fluorobenzoyl chloride | 1.5 mol, 238 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | aluminium chloride | 1.68 mol, 224 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | bromobenzene | 700 ml | BrC1=CC=CC=C1 | C6H5Br
product | (4-bromophenyl)(4′-fluorophenyl)methanone | BrC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)F | C13H8BrFO
